US04479885
Using 1-cyclohexyl-4-(trans-4'-n-propylcyclohexyl)-1,3-butadiene and fumaronitrile, 3-cyclohexyl-6-(trans-4'-n-propylcyclohexyl)phthalonitrile was obtained by the same method as in Example 1. It was a monotropic nematic liquid crystal having m.p. of 102.5° C. and cl.p. of 92° C.

reactant | 1-cyclohexyl-4-(trans-4'-n-propylcyclohexyl)-1,3-butadiene | C1(CCCCC1)C=CC=C[C@@H]1CC[C@H](CC1)CCC | C19H32
reactant | fumaronitrile | C(\C=C\C#N)#N | C4H2N2
product | 3-cyclohexyl-6-(trans-4'-n-propylcyclohexyl)phthalonitrile | C1(CCCCC1)C1=C(C(C#N)=C(C=C1)[C@@H]1CC[C@H](CC1)CCC)C#N | C23H30N2
